US06897224B2
5-Nitroquinoline-2-carbaldehyde
2.99 g (14.0 mmol) of sodium periodate is added to a solution that consists of 1.64 g (7.0 mmol) of 1-(1,2-dihydroxyethyl)-5-nitroquinoline in 42 ml of tetrahydrofuran and 7.0 ml of water. After 20 hours at room temperature, ethyl acetate is added, and the organic phase is washed with saturated sodium chloride solution. After the organic phase is dried on sodium sulfate, after the solvent is removed, and after purification on silica gel with hexane-ethyl acetate (0-100%), 1.40 g (99% of theory) of the product is obtained.

reactant | sodium periodate | 14.0 mmol, 2.99 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | 1-(1,2-dihydroxyethyl)-5-nitroquinoline | 7.0 mmol, 1.64 g | OC(CO)N1CC=CC2=C(C=CC=C12)[N+](=O)[O-] | C11H12N2O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 42 ml | O1CCCC1 | C4H8O
solvent | water | 7.0 ml | O | H2O
product | 5-Nitroquinoline-2-carbaldehyde | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)C=O | C10H6N2O3
